### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/NerveAdjunction): nerve adjunction, Cat has colimits

### PR DESCRIPTION
**Pull request by digama0**
The construction of the adjunction between `nerve` and `SSet.hoFunctor`. As a consequence, we can conclude that `Cat.{u,u}` has colimits.

Co-Authored-By: Emily Riehl <eriehl@jhu.edu> and Pietro Monticone <38562595+pitmonticone@users.noreply.github.com>

---

- [x] depends on: #16779
- [x] depends on: #16780
- [x] depends on: #16781
- [x] depends on: #19057
- [x] depends on: #16783
- [x] depends on: #21885

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 1]
```diff
@@ -0,0 +1,671 @@
...
+    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) (f : X _[1]₂) :
+    mk.app F [1]₂ f = .mk₁ (F.map ⟨f, rfl, rfl⟩) := rfl
+
+@[simp] theorem toNerve₂.mk.app_two {X : SSet.Truncated 2} {C : Cat}
+    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) (φ : X _[2]₂) :
+    mk.app F [2]₂ φ = .mk₂ (F.map (ev01₂ φ)) (F.map (ev12₂ φ)) := rfl
+
+/-- This is similiar to one of the famous Segal maps, except valued in a product rather than a
+pullback.-/
+noncomputable def nerve₂.seagull (C : Cat.{v, u}) :
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:123]:
```suggestion
/-- This is similar to one of the famous Segal maps, except valued in a product rather than a
pullback.-/
noncomputable def nerve₂.seagull (C : Cat.{v, u}) :
```
`seagull` isn't an established name in the literature is it? :open_mouth: :laughing:

File: Mathlib/CategoryTheory/Category/Cat/Limit.lean [hunk 2]
```diff
@@ -15,6 +17,12 @@ which are carried to one another by the functors in the diagram.
 A morphism between two such objects is a family of morphisms between the corresponding objects,
 which are carried to one another by the action on morphisms of the functors in the diagram.
 
+# The category of small categories has all small colimits.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/Limit.lean:20]: I would suggest moving this to a (short) separate file `Category.Cat.Colimit`.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/Cat/Limit.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Ugh, lol, no...

**Comment by emilyriehl** [comment]
> messageFile.md

What is this?

File: Mathlib/CategoryTheory/Quotient.lean [hunk 3]
```diff
@@ -91,6 +91,30 @@ theorem comp_right {a b c : C} (g : b ⟶ c) :
     ∀ (f₁ f₂ : a ⟶ b) (_ : CompClosure r f₁ f₂), CompClosure r (f₁ ≫ g) (f₂ ≫ g)
   | _, _, ⟨x, m₁, m₂, y, h⟩ => by simpa using CompClosure.intro x m₁ m₂ (y ≫ g) h
 
+theorem CompClosure.congruence :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:94]: This should be removed as there is a better proof below.

Comment (digama0) [reply Mathlib/CategoryTheory/Quotient.lean:94]: The other one has the name `compClosure.congruence`, shouldn't it have a capitalized namespace since the definition is called `CompClosure`?

Comment (joelriou) [reply Mathlib/CategoryTheory/Quotient.lean]: Yes, probably.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Quotient.lean]: We cut the old proof. I can PR this renaming separately if desired.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 4]
```diff
@@ -318,5 +318,244 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
       have h2 := congr_arg_heq (fun x => x.map' 0 1) (congr_fun (G.naturality (op ar)) x)
       exact h1.symm.trans <| .trans (congr_arg_heq (fun x => x.map' 0 1) (eq₁ _)) h2
 
+/-- The components of the 2-truncated nerve adjunction unit. -/
+def nerve₂Adj.unit.component (X : SSet.Truncated.{u} 2) :
+    X ⟶ nerveFunctor₂.obj (hoFunctor₂.obj X) := by
+  fapply toNerve₂.mk' (C := hoFunctor₂.obj X)
+  · exact (ReflQuiv.adj.{u}.unit.app (SSet.oneTruncation₂.obj X) ⋙rq
+    (SSet.Truncated.HomotopyCategory.quotientFunctor X).toReflPrefunctor ⋙rq
+    (OneTruncation₂.ofNerve₂.natIso).inv.app (hoFunctor₂.obj X))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:327]:
```suggestion
      (SSet.Truncated.HomotopyCategory.quotientFunctor X).toReflPrefunctor ⋙rq
      (OneTruncation₂.ofNerve₂.natIso).inv.app (hoFunctor₂.obj X))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 5]
```diff
@@ -318,5 +318,244 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+    refine fun V W f ↦ toNerve₂.ext (f ≫ nerve₂Adj.unit.component W)
+      (nerve₂Adj.unit.component V ≫ nerveFunctor₂.map (hoFunctor₂.map f)) ?_
+    rw [Functor.map_comp, Functor.map_comp, nerve₂Adj.unit.component_eq,
+      nerve₂Adj.unit.component_eq]
+    have nat₁ := (OneTruncation₂.ofNerve₂.natIso).inv.naturality (hoFunctor₂.map f)
+    repeat rw [← ReflQuiv.comp_eq_comp (X := ReflQuiv.of _) (Y := ReflQuiv.of _)]
+    repeat rw [assoc]
+    simp at nat₁
+    rw [← nat₁]
+    rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:350]:
```suggestion
  naturality _ _ f := toNerve₂.ext _ _ (by
    have := (OneTruncation₂.ofNerve₂.natIso).inv.naturality (hoFunctor₂.map f)
    dsimp at this ⊢
    rw [Functor.map_comp, Functor.map_comp, nerve₂Adj.unit.component_eq,
      nerve₂Adj.unit.component_eq, ← ReflQuiv.comp_eq_comp (Y := ReflQuiv.of _),
      ← ReflQuiv.comp_eq_comp (Y := ReflQuiv.of _), assoc, ← this]
    rfl)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 6]
```diff
@@ -318,5 +318,244 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+
+/-- The adjunction between the 2-truncated nerve functor and the 2-truncated homotopy category
+functor. -/
+nonrec def nerve₂Adj : hoFunctor₂.{u} ⊣ nerveFunctor₂ := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:354]: Things may go more smoothly if the naturality property of the unit is stated directly in terms of `unit.app` (I suggest not using a different name "component"), because this lemma `unit.naturality` will be easier to apply in rewrites. I have cleaned up the left triangle identity:
```lean
/-- The components of the 2-truncated nerve adjunction unit. -/
def nerve₂Adj.unit.app (X : SSet.Truncated.{u} 2) :
    X ⟶ nerveFunctor₂.obj (hoFunctor₂.obj X) := by
  fapply toNerve₂.mk' (C := hoFunctor₂.obj X)
  · exact (ReflQuiv.adj.{u}.unit.app (SSet.oneTruncation₂.obj X) ⋙rq
      (SSet.Truncated.HomotopyCategory.quotientFunctor X).toReflPrefunctor ⋙rq
      (OneTruncation₂.ofNerve₂.natIso).inv.app (hoFunctor₂.obj X))
  · exact fun φ ↦ Quotient.sound _ (HoRel₂.mk φ)

theorem nerve₂Adj.unit.map_app_eq (X : SSet.Truncated.{u} 2) :
    SSet.oneTruncation₂.map (nerve₂Adj.unit.app X) =
    ReflQuiv.adj.{u}.unit.app (SSet.oneTruncation₂.obj X) ⋙rq
    (SSet.Truncated.HomotopyCategory.quotientFunctor X).toReflPrefunctor ⋙rq
    (OneTruncation₂.ofNerve₂.natIso).inv.app (hoFunctor₂.obj X) := by
  apply oneTruncation₂_toNerve₂Mk'

@[reassoc]
lemma nerve₂Adj.unit.naturality {X Y : SSet.Truncated.{u} 2} (f : X ⟶ Y) :
    f ≫ unit.app Y = unit.app X ≫ nerveFunctor₂.map (hoFunctor₂.map f) :=
  toNerve₂.ext _ _ (by
    have := (OneTruncation₂.ofNerve₂.natIso).inv.naturality (hoFunctor₂.map f)
    dsimp at this ⊢
    rw [Functor.map_comp, Functor.map_comp, nerve₂Adj.unit.map_app_eq,
      nerve₂Adj.unit.map_app_eq, ← ReflQuiv.comp_eq_comp (Y := ReflQuiv.of _),
      ← ReflQuiv.comp_eq_comp (Y := ReflQuiv.of _), assoc, ← this]
    rfl)


/-- The 2-truncated nerve adjunction unit. -/
@[simps]
def nerve₂Adj.unit : 𝟭 (SSet.Truncated.{u} 2) ⟶ hoFunctor₂ ⋙ nerveFunctor₂ where
  app := nerve₂Adj.unit.app
  naturality _ _ _ := unit.naturality _

-- to be moved (if making this a global simp lemma breaks things, it could be made a local simp here)
@[simp]
lemma Cat.of_coe (C : Cat.{v, u}) : Cat.of C = C := rfl

/-- The adjunction between the 2-truncated nerve functor and the 2-truncated homotopy category
functor. -/
nonrec def nerve₂Adj : hoFunctor₂.{u} ⊣ nerveFunctor₂ :=
  Adjunction.mkOfUnitCounit {
    unit := nerve₂Adj.unit
    counit := nerve₂Adj.counit
    left_triangle := by
      ext X
      apply HomotopyCategory.lift_unique'
      dsimp
      rw [Cat.comp_eq_comp, ← Functor.assoc]
      dsimp only [hoFunctor₂]
      rw [← hoFunctor₂_naturality (nerve₂Adj.unit.app X)]
      dsimp
      rw [nerve₂Adj.unit.map_app_eq X, Functor.assoc, id_comp]
      show _ ⋙ (HomotopyCategory.quotientFunctor _ ⋙
        nerve₂Adj.counit.app (hoFunctor₂.obj X)) = _
      rw [nerve₂Adj.counit.app_eq]
      dsimp
      rw [← Cat.comp_eq_comp, ← assoc, ← Cat.freeRefl.map_comp, ReflQuiv.comp_eq_comp,
        ReflPrefunctor.comp_assoc]
      dsimp
      rw [← ReflQuiv.comp_eq_comp, Iso.inv_hom_id_app, ReflQuiv.id_eq_id]
      dsimp
      rw [ReflPrefunctor.comp_id (V := hoFunctor₂.obj X),
        ← ReflQuiv.comp_eq_comp (Z := .of _), Cat.freeRefl.map_comp, assoc]
      have := ReflQuiv.adj.counit.naturality
        (X := Cat.freeRefl.obj (ReflQuiv.of (OneTruncation₂ X)))
        (Y := hoFunctor₂.obj X) (SSet.Truncated.HomotopyCategory.quotientFunctor X)
      dsimp at this
      rw [this]
      apply Adjunction.left_triangle_components_assoc
    right_triangle := sorry
  }
```
Could you include this chunk of code in the PR? (it does not seem to break the end of the file) and I will look at the rest tomorrow.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done. This was very helpful. I tried to golf the right_triangle along the same lines. Let me know what you think.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 5 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 7]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+
+/-- The 2-truncated nerve adjunction unit. -/
+@[simps]
+def nerve₂Adj.unit : 𝟭 (SSet.Truncated.{u} 2) ⟶ hoFunctor₂ ⋙ nerveFunctor₂ where
+  app := nerve₂Adj.unit.app
+  naturality _ _ _ := unit.naturality _
+
+-- to be moved (if making this a global simp lemma breaks things, it could be made a local simp)
+@[simp]
+lemma Cat.of_coe (C : Cat.{v, u}) : Cat.of C = C := rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:357]: This should be moved to `Category.Cat`, and `Cat.coe_of` may be a better name.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 8]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+      rw [this]
+      dsimp
+      rw [← assoc, Cat.comp_eq_comp, toReflPrefunctor.map_comp]
+      rw [← ReflQuiv.comp_eq_comp (X := ReflQuiv.of _) (Y := ReflQuiv.of _) (Z := ReflQuiv.of _)]
+      have := ReflQuiv.adj.unit.naturality (OneTruncation₂.ofNerve₂.natIso.hom.app C)
+      dsimp at this ⊢
+      rw [← assoc, ← this]
+      have := ReflQuiv.adj.right_triangle_components C
+      slice_lhs 2 3 => apply ReflQuiv.adj.right_triangle_components
+      simp
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:415]:
```suggestion
      have := ReflQuiv.adj.right_triangle_components C
      dsimp [ReflQuiv.forget] at this
      simp [reassoc_of% this]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 9]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+      let Fh : ComposableArrows Y 1 := F.app (op ⦋1⦌₂) (.mk₁ h)
+      let Fk : ComposableArrows Y 1 := F.app (op ⦋1⦌₂) (.mk₁ k)
+      let Fhk' : ComposableArrows Y 1 := F.app (op ⦋1⦌₂) (.mk₁ (h ≫ k))
+      let Fhk : ComposableArrows Y 2 := F.app (op ⦋2⦌₂) hk
+      have lem0 := congr_fun (F.naturality δ0₂.op) hk
+      have lem1 := congr_fun (F.naturality δ1₂.op) hk
+      have lem2 := congr_fun (F.naturality δ2₂.op) hk
+      replace lem0 := congr_arg_heq (·.map' 0 1) lem0
+      replace lem1 := congr_arg_heq (·.map' 0 1) lem1
+      replace lem2 := congr_arg_heq (·.map' 0 1) lem2
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:440]:
```suggestion
      have lem0 := congr_arg_heq (·.map' 0 1) (congr_fun (F.naturality δ0₂.op) hk)
      have lem1 := congr_arg_heq (·.map' 0 1) (congr_fun (F.naturality δ1₂.op) hk)
      have lem2 := congr_arg_heq (·.map' 0 1) (congr_fun (F.naturality δ2₂.op) hk)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 10]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+      have eq0 : (nerveFunctor₂.obj X).map δ0₂.op hk = .mk₁ k := by
+        apply ComposableArrows.ext₁ rfl rfl
+        simp [nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂]
+      have eq2 : (nerveFunctor₂.obj X).map δ2₂.op hk = .mk₁ h := by
+        apply ComposableArrows.ext₁ (by rfl) (by rfl)
+        simp [nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂]; rfl
+      have eq1 : (nerveFunctor₂.obj X).map δ1₂.op hk = .mk₁ (h ≫ k) := by
+        apply ComposableArrows.ext₁ (by rfl) (by rfl)
+        simp [nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂]; rfl
+      simp at lem0 lem1 lem2
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:450]:
```suggestion
      dsimp at lem0 lem1 lem2
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 11]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+          nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂] at this ⊢
+        convert this.symm
+        apply ComposableArrows.ext₀; rfl
+      · simp [uF', nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂,
+          ReflQuiv.comp_eq_comp, OneTruncation₂.nerveHomEquiv, Fk, uF, Fhk]
+        have := congr_arg (·.obj 0) (congr_fun (F.naturality ι2₂.op) hk)
+        dsimp [oneTruncation₂, ComposableArrows.left, SimplicialObject.truncation,
+          nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂] at this ⊢
+        convert this.symm
+        apply ComposableArrows.ext₀; rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:492]: Unfortunately, I do not know how to factor out the last three identical tactics:
```suggestion
      refine eq_of_heq (lem1.trans (heq_comp ?_ ?_ ?_ lem2.symm lem0.symm)) <;>
        simp [uF', nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂,
          ReflQuiv.comp_eq_comp, OneTruncation₂.nerveHomEquiv, Fk, uF, Fhk]
      · have := congr_arg (·.obj 0) (congr_fun (F.naturality ι0₂.op) hk)
        dsimp [oneTruncation₂, ComposableArrows.left, SimplicialObject.truncation,
          nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂] at this ⊢
        convert this.symm
        apply ComposableArrows.ext₀; rfl
      · have := congr_arg (·.obj 0) (congr_fun (F.naturality ι1₂.op) hk)
        dsimp [oneTruncation₂, ComposableArrows.left, SimplicialObject.truncation,
          nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂] at this ⊢
        convert this.symm
        apply ComposableArrows.ext₀; rfl
      · have := congr_arg (·.obj 0) (congr_fun (F.naturality ι2₂.op) hk)
        dsimp [oneTruncation₂, ComposableArrows.left, SimplicialObject.truncation,
          nerveFunctor₂, SSet.truncation, forget₂, HasForget₂.forget₂] at this ⊢
        convert this.symm
        apply ComposableArrows.ext₀; rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 12]
```diff
@@ -318,5 +319,227 @@ theorem toNerve₂.ext (F G : X ⟶ nerveFunctor₂.obj (Cat.of C))
...
+instance nerveFunctor.full : nerveFunctor.{u, u}.Full :=
+  have : (Nerve.nerveFunctor₂ ⋙ SSet.Truncated.cosk 2).Full :=
+    Full.comp nerveFunctor₂ (SSet.Truncated.cosk 2)
+  Functor.Full.of_iso Nerve.cosk₂Iso.symm
+
+/-- The nerve functor is both full and faithful and thus is fully faithful. -/
+noncomputable def nerveFunctor.fullyfaithful : nerveFunctor.FullyFaithful :=
+  FullyFaithful.ofFullyFaithful nerveFunctor
+
+instance nerveCounit_isIso : IsIso nerveAdjunction.counit :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:533]:
```suggestion
instance nerveAdjunction.isIso_counit : IsIso nerveAdjunction.counit :=
```

File: Mathlib/CategoryTheory/Category/Cat/Colimit.lean [hunk 13]
```diff
@@ -0,0 +1,37 @@
...
+import Mathlib.AlgebraicTopology.SimplicialSet.NerveAdjunction
+import Mathlib.CategoryTheory.Monad.Limits
+
+
+/-!
+# The category of small categories has all small colimits.
+
+A reflective subcategory inherits any colimits present in the ambient category, constructed
+by applying the reflector. Thus the fully faithful nerve embedding into simplicial sets and
+its left adjoint provide a construction of colimits in the category of small categories.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/Colimit.lean:15]:
```suggestion
In this file, the existence of colimits in `Cat` is deduced from the existence of
colimits in the category of simplicial sets. Indeed, `Cat` identifies to a reflective
subcategory of the category of simplicial sets (see `AlgebraicTopology.SimplicialSet.NerveAdjunction`),
so that colimits in `Cat` can be computed by passing to nerves, taking the colimit
in `SSet` and finally applying the homotopy category functor `SSet ⥤ Cat`. 
```

File: Mathlib/CategoryTheory/Category/ReflQuiv.lean [hunk 14]
```diff
@@ -215,16 +217,8 @@ def adj.counit.app (C : Cat) : Cat.freeRefl.obj (forget.obj C) ⥤ C :=
...
-    Cat.FreeRefl.quotientFunctor C ⋙ adj.counit.app C =
-    Quiv.adj.counit.app C := rfl
-
-/-- The counit of `ReflQuiv.adj` is closely related to the counit of `Quiv.adj`. For ease of use,
-we introduce primed version for unbundled categories. -/
-@[simp]
-theorem adj.counit.component_eq' (C) [Category C] :
-    Cat.FreeRefl.quotientFunctor C ⋙ adj.counit.app (Cat.of C) =
-    Quiv.adj.counit.app (Cat.of C) := rfl
+theorem adj.counit.app_eq (C : Type u) [Category C] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ReflQuiv.lean:220]:
```suggestion
theorem adj.counit.comp_app_eq (C : Type u) [Category C] :
```

**Comment by digama0** [comment]
Thanks to @emilyriehl and @joelriou for their tireless work getting this over the line.

bors r+
